US04303655
To a mixture of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-formylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-formylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid, (24.8 g.) in methanol (500 ml.) was dropwise added phosphorus oxychloride (16.4 g.) over 15 minutes under cooling at 5° to 10° C. with stirring, and the mixture was stirred for 2.5 hours at the same temperature. The 3/4 amount of methanol was distilled off from the reaction mixture under reduced pressure, and the residue was pulverized in diethyl ether. The powder was collected by filtration and then dried to give 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-amino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride, which can be represented as 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-imino- 2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride.

reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-formylamino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)NC=O)=O)=O | C16H14N8O6S3
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-formylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2NC(SC2)=NC=O)=O)=O | C16H14N8O6S3
reactant | phosphorus oxychloride | 16.4 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | methanol | 500 ml | CO | CH4O
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-[2-(2-amino-1,3-thiazol-4-yl)glyoxylamido]-3-cephem-4-carboxylic acid hydrochloride | Cl.CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=O)C=2N=C(SC2)N)=O)=O | InChI=1S/C15H14N8O5S3.ClH/c1-22-15(19-20-21-22)31-3-5-2-29-12-7(11(26)23(12)8(5)13(27)28)18-10(25)9(24)6-4-30-14(16)17-6;/h4,7,12H,2-3H2,1H3,(H2,16,17)(H,18,25)(H,27,28);1H/t7?,12-;/m1./s1
